US09212187B2
Synthesis of N-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-pyridin-3-ylethyl)benzamide hydrochloride
Benzoyl chloride(0.13 ml) was added to an acetonitrile solution (6 ml) of 1-ethyl-3,3,5-trimethyl-7-[(2-pyridin-3-ylethylamino)methyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.38 g) and triethylamine(0.17 ml) under ice cooling. The mixture was stirred at room temperature overnight. An aqueous sodium hydrogencarbonate solution was added to the reaction mixture, followed by extraction by ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=91:9). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride ethanol solution(0.87 ml) was added to an isopropyl alcohol solution (10 ml) of the residue, and the liquid was condensed under reduced pressure. The residue was recrystallized from the ethanol-ether mixture to give the title compound(0.26 g) as a pale brown white powder.

reactant | Benzoyl chloride | 0.13 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-ethyl-3,3,5-trimethyl-7-[(2-pyridin-3-ylethylamino)methyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.38 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCCC=2C=NC=CC2 | C22H28N4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride ethanol | 0.87 ml | C(C)O.Cl
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | N-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-pyridin-3-ylethyl)benzamide hydrochloride | 0.26 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(C2=CC=CC=C2)=O)CCC=2C=NC=CC2 | InChI=1S/C29H32N4O3.ClH/c1-5-33-24-14-13-22(18-25(24)31(4)27(35)29(2,3)28(33)36)20-32(17-15-21-10-9-16-30-19-21)26(34)23-11-7-6-8-12-23;/h6-14,16,18-19H,5,15,17,20H2,1-4H3;1H
